US04925838
A solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-(2,4-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.78 g) in a mixture of methanol (100 ml) and concentrated hydrochloric acid (1.62 ml) was stirred at ambient temperature for 1 hour. The reaction mixture was evaporated in vacuo. The resulting residue was dissolved in toluene (30 ml) and the solution was concentrated under reduced pressure to give a residue. The residue was chromatographed on silica gel (60 g) eluting with a mixture of dichloromethane and acetone (2:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-2-(2,4-dioxoimidazolidin-1-yl)methyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (3.27 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-(2,4-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.78 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NC(C1)=O)=O | C22H32N4O7Si
reactant | hydrochloric acid | 1.62 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | (2S,4R)-2-(2,4-dioxoimidazolidin-1-yl)methyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 3.27 g | O=C1N(CC(N1)=O)C[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N4O7
